US08242175B2
A mixture of 1-[3-chloro-5-(4-methyl-piperazin-1-yl)-phenyl]-ethanone (prepared as described in Preparation 4, 300 mg, 1.19 mmol), KOH (133 mg, 2.38 mmol) and (E)-3-(4-formyl-phenyl)-acrylic acid tert-butyl ester (276 mg, 1.19 mmol) in EtOH (10 ml) and H2O (2 ml) was stirred at −20° C. for 1 h and then at room temperature for 12 h. The resulting mixture was partitioned between water and AcOEt and the organic phase was dried over Na2SO4 and evaporated in vacuo. The crude reaction mixture was purified by column chromatography (eluent: AcOEt/MeOH 9:1). The collected fractions were evaporated in vacuo and the resulting powder was dissolved in DCM (5 ml) and TFA (1 ml). The solution was stirred at room temperature for 12 h and then the solvent was removed to give 40 mg (E)-3-(4-{(E)-3-[3-chloro-5-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid as its trifluoroacetate salt.

reactant | 1-[3-chloro-5-(4-methyl-piperazin-1-yl)-phenyl]-ethanone | 1.19 mmol, 300 mg | ClC=1C=C(C=C(C1)N1CCN(CC1)C)C(C)=O | C13H17ClN2O
reactant | KOH | 2.38 mmol, 133 mg | [OH-].[K+]
reactant | (E)-3-(4-formyl-phenyl)-acrylic acid tert-butyl ester | 1.19 mmol, 276 mg | C(C)(C)(C)OC(\C=C\C1=CC=C(C=C1)C=O)=O | C14H16O3
solvent | EtOH | 10 ml | CCO | C2H6O
solvent | H2O | 2 ml | O | H2O
product | (E)-3-(4-{(E)-3-[3-chloro-5-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid | 40 mg | ClC=1C=C(C=C(C1)N1CCN(CC1)C)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O | C23H23ClN2O3
